Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Atazanavir / Latex
 
Attending: ___
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ y/o M with HIV on descovy/dolutegravir, HBV, hypertension
who presents with syncope and suicidal ideation.

Patient states a few days ago he began to feel lightheaded with
standing yesterday he was walking into the bathroom he sat on 
the
toilet and then he woke up on the floor he does not know how 
long
he was lying on the bathroom floor when he got up he went to 
walk
towards his bedroom and again lost consciousness and hit his 
head
on the wall.  When he woke up on the floor he noticed that the
back of his head was bleeding.  He then went to lay in bed but
the wound continued to bleed profusely so he called ___. 

He denies any fevers chills sick contacts he denies any chest
pain.  He does endorse palpitations ongoing for the last year
which he said were due to his high blood pressure.  He does not
remember feeling palpitations right before he lost 
consciousness.
He does endorse that about a month ago his insurance was not
covering his HIV medications and he missed several weeks but
restarted them ___ weeks ago.

On arrival to the emergency room patient's temperature was 98.0,
heart rate was 76, blood pressure was 162/80, respiratory rate 
20
with an O2 sat of 98% on room air.  Shortly after presentation 
he
endorsed suicidal ideations with plan to possibly overdose.  His
labs were remarkable for hypokalemia 2.7, ___ with a creatinine
of 1.3, a d-dimer that was elevated at 3623, troponins that were
negative x2, normal liver function tests.  An EKG was obtained
which showed ventricular trigeminy.  He was noted to have a
laceration on the back of his head he had a CT scan which showed
a small right subgaleal hematoma but no intracranial fractures. 
Chest x-ray showed no acute process.  Because of his elevated
d-dimer he underwent a CTA chest which was negative for PE or
other pathology.  He was given 40 mEq of potassium, Tylenol and
40 mEq of IV potassium and admitted to medicine for further 
care.

On arrival to the floor he states he is feeling well he denies
any feelings of wanting to hurt himself.  He does endorse that a
___ pop star recently killed himself via overdose which
made him feel very sad and have passive suicidal thoughts.

 
Past Medical History:
HIV
Hepatitis B
Hypertension
PPD positive status post INH for nine months, ___

 
Social History:
___
Family History:
Father with hypertension mom with no medical
problems

 
Physical Exam:
General Appearance: pleasant, comfortable, no acute distress
Eyes: PERLL, EOMI, no conjuctival injection, anicteric
ENT: no sinus tenderness, MMM, oropharynx without exudate or
lesions, no supraclavicular or cervical lymphadenopathy, no JVD,
no carotid bruits, no thyromegaly or palpable thyroid nodules
Respiratory: CTA b/l with good air movement throughout
Cardiovascular: RR, S1 and S2 wnl, no murmurs, rubs or gallops
Gastrointestinal: nd, +b/s, soft, nt, no masses or HSM
Extremities: no cyanosis, clubbing or edema
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert, oriented to self, time, date, reason for
hospitalization. fluent speech.
Psychiatric: pleasant, appropriate affect
GU: no catheter in place

 
Pertinent Results:
___ 06:30AM BLOOD WBC-9.1 RBC-4.78 Hgb-14.9 Hct-42.4 MCV-89 
MCH-31.2 MCHC-35.1 RDW-12.7 RDWSD-40.9 Plt ___
___ 06:30AM BLOOD Neuts-50.1 ___ Monos-10.3 Eos-2.5 
Baso-0.4 Im ___ AbsNeut-4.54 AbsLymp-3.31 AbsMono-0.94* 
AbsEos-0.23 AbsBaso-0.04
___ 06:30AM BLOOD Plt ___
___ 06:28AM BLOOD D-Dimer-3623*
___ 06:30AM BLOOD Glucose-105* UreaN-9 Creat-0.8 Na-143 
K-3.1* Cl-103 HCO3-29 AnGap-11
___ 03:28AM BLOOD ALT-34 AST-25 AlkPhos-77 TotBili-0.4
___ 03:28AM BLOOD Lipase-33
___ 08:00AM BLOOD cTropnT-<0.01
___ 06:30AM BLOOD Calcium-9.0 Phos-2.4* Mg-2.0
___ 12:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

CXR is normal

CTA
IMPRESSION:   
1. No evidence of pulmonary embolism. 
2. Arterial enhancing focus in hepatic segment 7 measuring 1.1 
cm, not fully 
assessed on the provided images.  Differential diagnosis 
includes hemangioma 
or perfusion anomaly. 

CT head
IMPRESSION:   
1. No acute intracranial process, including no acute 
intracranial hemorrhage.  
No acute fracture.  Small right superior parietal subgaleal 
hematoma. 
2. Partially visualized paranasal sinus disease, as described 
above 

EKG
sinus rhythm, ventricular trigeminy
old inferior infarct

TTE
IMPRESSION: No structural cardiac cause of syncope identified. 
Mild symmetric left ventricular
hypertrophy. Normal biventricular cavity sizes and 
regional/global biventricular systolic function.
No valvular pathology or pathologic flow identified. Normal 
estimated pulmonary artery systolic
pressure.

 
Brief Hospital Course:
Patient admitted to medical floor. Head laceration stapled in 
ED. Initial concern of SI was cleared with psych consult as 
patient was only contemplating end of life issues due to recent 
death of a celebrity he follows. His syncope had a very 
convincing vasovagal story. Though he had some ventricular 
trigeminy, it is not symptomatic, and completely resolved after 
potassium repletion. His chlorthalidone is discontinued to avoid 
hypokalemia. Echocardiogram was completely normal. He will be 
discharged to PCP follow up in 1 week for lab check and staple 
removal.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dolutegravir 50 mg PO DAILY 
2. Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO DAILY 
3. Chlorthalidone 25 mg PO DAILY 

 
Discharge Medications:
1.  Dolutegravir 50 mg PO DAILY  
2.  Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO DAILY  
3. HELD- Chlorthalidone 25 mg PO DAILY  This medication was 
held. Do not restart Chlorthalidone until lab check with your 
primary care doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Vasovagal syncope
hypokalemia
ventricular trigeminy
 
Discharge Condition:
Stable
 
Discharge Instructions:
You were admitted for syncope. We think it was due to a 
vasovagal reaction related to forced bowel movement and getting 
up too fast. Your heart rhythm was briefly abnormal due to low 
potassium levels, but after your potassium was replete your 
heart rhythm returned to normal. Please STOP taking 
chlorthalidone, and follow up with your primary care doctor for 
lab check and staple removal within the next week.
 
Followup Instructions:
___